US07906645B2
tert-butyl (3S)-3-(piperazin-1-ylmethyl)piperidine-1-carboxylate
Benzyl 4-{[(3S)-1-(tert-butoxycarbonyl)piperidin-3-yl]methyl}piperazine-1-carboxylate (5.0 g, 12.4 mmol) was dissolved in methanol (50 ml) in a three-necked flask. The air was removed under reduced pressure and replaced with argon before the addition of 10% Pd/C (1.24 g). A balloon of hydrogen was then added and the reaction stirred at room temperature for 18 h. The hydrogen was evacuated and replaced with argon. The catalyst was then filtered and the solvent removed under reduced pressure to afford the desired product as a white foam (3.5 g). The compound was used without further purification.

reactant | Benzyl 4-{[(3S)-1-(tert-butoxycarbonyl)piperidin-3-yl]methyl}piperazine-1-carboxylate | 12.4 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)CN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C23H35N3O4
solvent | methanol | 50 ml | CO | CH4O
product | tert-butyl (3S)-3-(piperazin-1-ylmethyl)piperidine-1-carboxylate | 3.5 g | N1(CCNCC1)C[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C15H29N3O2
